US09289419B2
Synthesis of (R)-4-amino-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylic acid hydrochloride
(R)-4-((tert-butoxycarbonyl)amino)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylic acid (100 mg, 0.17 mmol) added to 4N HCl in Dioxane (5 mL) was stirred at 20-35° C. for 3 h. The reaction mixture was concentrated under reduced pressure to afford crude. The crude obtained was washed with diethyl ether and dried to afford 58 mg of the title compound as a pale brown solid.

reactant | (R)-4-((tert-butoxycarbonyl)amino)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylic acid | 0.17 mmol, 100 mg | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C(=O)C=1C=NN2C1C=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F)C(=O)O | C29H33F2N5O5
reactant | HCl | 4N | Cl | ClH
solvent | Dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-4-amino-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylic acid hydrochloride | 58 mg | Cl.NC1(CCN(CC1)C(=O)C=1C=NN2C1C=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F)C(=O)O | InChI=1S/C24H25F2N5O3.ClH/c25-15-3-4-19(26)17(12-15)20-2-1-8-30(20)16-5-9-31-21(13-16)18(14-28-31)22(32)29-10-6-24(27,7-11-29)23(33)34;/h3-5,9,12-14,20H,1-2,6-8,10-11,27H2,(H,33,34);1H/t20-;/m1./s1
